US06057337
N-[3-(Dimethylamino)propyl]-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide hydrochloride (Compound 2)
4N Hydrochloric acid/ethyl acetate solution (5.5 ml) was added to a solution of N-[3-(dimethylamino)propyl]-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide (8.37 g) in ethyl acetate (252 ml) under argon gas atmosphere while being cooled with ice. The solution was stirred for 1.5 hours at room temperature. The deposited crystals were collected by filtration under a vacuum and was recrystallized with ethyl acetate, thereby yielding the entitled compound (8.12 g) as white crystal.

reactant | Hydrochloric acid ethyl acetate | 4N, 5.5 ml | Cl.C(C)(=O)OCC
reactant | N-[3-(dimethylamino)propyl]-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide | 8.37 g | CN(CCCN(C=O)OCCC1N(CCCC1)C(NCCCCCCCCCCCCCCCCCC)=O)C | C32H64N4O3
solvent | ethyl acetate | 252 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(Dimethylamino)propyl]-{2-[1-(N-octadecylcarbamoyl)-2-piperidyl]ethoxy}formamide hydrochloride | 8.12 g | Cl.CN(CCCN(C=O)OCCC1N(CCCC1)C(NCCCCCCCCCCCCCCCCCC)=O)C | InChI=1S/C32H64N4O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-20-25-33-32(38)36-28-21-19-23-31(36)24-29-39-35(30-37)27-22-26-34(2)3;/h30-31H,4-29H2,1-3H3,(H,33,38);1H
